US05451343
2,2',4,4'-Tetrahydroxybenzophenone (2.5 g, 10.15 mmol.) was heated in 20 ml of water at 195°-200° C. for 4 hours (Aldrich pressure tube). After cooling, the crude product was filtered off and mixed with 25 ml of water. The resulting suspension was refluxed for 25 min. and filtered at about 60° C. Pure product 3,6-dihydroxyxanthone 2.15 g was obtained in 90.4% yield. It did not melt below 330° C. HNMR (DMSO): 10.780 (s,2H), 7.983 (d,2H,J=8.6 Hz), 6,822 (m,4H). MS: 228,220, 1717, 115, 100, 69, 63.

reactant | 2,2',4,4'-Tetrahydroxybenzophenone | 10.15 mmol, 2.5 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
solvent | water | 20 ml | O | H2O
product | 3,6-dihydroxyxanthone | 2.15 g, 90.4% yield | OC=1C=CC=2C(C3=CC=C(C=C3OC2C1)O)=O | C13H8O4
